US08937088B2
To a solution of 3-(pentafluoro-λ6-sulfanyl)aniline (13.46 g, 61.4 mmol) in DMF (123 ml) stirred in a 500 mL round-bottomed flask in an ice bath under a nitrogen atmosphere, NBS (12.02 g, 67.6 mmol) was added in one portion. The resulting mixture was stirred at room temperature for 4 hr. The reaction was worked up by the addition of H2O and extracted with EtOAc (2×100 mL). The combined organic layer was washed with H2O and brine. The organic layer was dried over MgSO4, filtered and evaporated. The residue was purified by CombiFlash Rf system eluted with a gradient up to 20% EtOAC/hexanes of EtOAc on a 120 g column to afford the desired 4-bromo-3-(pentafluoro-λ6-sulfanyl)aniline (11 g, 36.9 mmol, 60.1% yield).

reactant | 3-(pentafluoro-λ6-sulfanyl)aniline | 61.4 mmol, 13.46 g | FS(C=1C=C(N)C=CC1)(F)(F)(F)F | C6H6F5NS
reactant | NBS | 67.6 mmol, 12.02 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | H2O | O | H2O
solvent | DMF | 123 ml | CN(C)C=O | C3H7NO
product | 4-bromo-3-(pentafluoro-λ6-sulfanyl)aniline | 36.9 mmol, 11 g, 60.1% yield | BrC1=C(C=C(N)C=C1)S(F)(F)(F)(F)F | C6H5BrF5NS
